US04287195
A mixture of 9 parts of ethyl N-(2,2-dimethoxyethyl)-N'-[4-(4-methoxyphenyl)-1-piperazinyl]carbamimidothioate monohydroiodide and 100 parts of a hydrochloric acid solution 6 N is stirred and refluxed for 1 hour. The reaction mixture is cooled and adjusted to pH 10 with a sodium hydroxide solution 50%. The product is extracted with dichloromethane. The extract is dried, filtered and evaporated. The residue is crystallized from 1,1'-oxybisbutane (activated charcoal), yielding 6 parts (100%) of 1-[2-(ethylthio)-1H-imidazol-1-yl]-4-(4-methoxyphenyl)piperazine; mp. 111.8° C.

reactant | ethyl N-(2,2-dimethoxyethyl)-N'-[4-(4-methoxyphenyl)-1-piperazinyl]carbamimidothioate monohydroiodide | I.COC(CNC(=NN1CCN(CC1)C1=CC=C(C=C1)OC)SCC)OC
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | 1-[2-(ethylthio)-1H-imidazol-1-yl]-4-(4-methoxyphenyl)piperazine | 100% | C(C)SC=1N(C=CN1)N1CCN(CC1)C1=CC=C(C=C1)OC | C16H22N4OS
